US08492378B2
N′-acetyl-1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carbohydrazide
To a solution of 1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carbohydrazide (1.0 g, 3.35 mmol) in N,N-dimethylacetamide (5 mL) was added acetyl chloride (262 μL, 3.69 mmol) at 0° C., and the resulting mixture was stirred at room temperature for 1 hr. Ethyl acetate was added to the reaction mixture, the precipitate was collected by filtration and washed with ethyl acetate to give the title compound (1.14 g, yield 100%) as colorless crystals.

reactant | 1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carbohydrazide | 3.35 mmol, 1.0 g | CSC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C(=O)NN | C15H14N4OS
reactant | acetyl chloride | 3.69 mmol, 262 μL | C(C)(=O)Cl | C2H3ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N′-acetyl-1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carbohydrazide | 1.14 g, yield 100% | C(C)(=O)NNC(=O)C=1C=CC2=C(N(C=N2)C2=CC=C(C=C2)SC)C1 | C17H16N4O2S
